US05354772
Ethyl 3-(4'-fluorophenyl)-1-methylindole-2-carboxylate
To a solution of 8.0 g. (28 mmol.) of ethyl 3-(4'-fluorophenyl)indole-2-carboxylate in 30 ml. of dry dimethylacetamide stirred under nitrogen at -10° C., 1.6 g. (33 mmol.) of sodium hydride is added. The reaction mixture is stirred at -10° C. under nitrogen for 45 min., 4.8 g. (32 mmol.) of methyl iodide is added at -10° C., and the reaction mixture is allowed to warm to room temperature and stirred under nitrogen at room temperature for 2 hrs. The reaction mixture is poured into 400 ml. of ice/water, neutralized with 4 ml. of 2N. hydrochloric acid and extracted several times with diethyl ether. The diethyl ether extracts are combined, washed with water, washed with saturated sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and evaporated at reduced pressure. The residue is purified by column chromatography utilizing a silica gel column and chloroform as the eluant. The fractions containing the product are combined and evaporated at reduced pressure, and the residue is crystallized from n-hexane/petroleum ether to obtain the product (7.6 g. (91%)), m.p. 61°-62° C.

reactant | ethyl 3-(4'-fluorophenyl)indole-2-carboxylate | 28 mmol | FC1=CC=C(C=C1)C1=C(NC2=CC=CC=C12)C(=O)OCC | C17H14FNO2
reactant | sodium hydride | 33 mmol | [H-].[Na+]
reactant | methyl iodide | 32 mmol | CI | CH3I
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | Ethyl 3-(4'-fluorophenyl)-1-methylindole-2-carboxylate | FC1=CC=C(C=C1)C1=C(N(C2=CC=CC=C12)C)C(=O)OCC | C18H16FNO2
